US08309562B2
{4-[(4-Methoxy-phenyl)-methyl-amino]-quinazolin-2-yl}-acetonitrile
A mixture of (2-chloromethyl-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine (50 mg, 0.14 mmol) and NaCN (21 mg, 0.43 mmol) in DMSO was heated by microwave for 10 min at 120° C. The reaction was quenched with H2O, diluted with EtOAc and the layers separated. The aqueous phase was extracted with EtOAc (2×5 mL), washed with brine, filtered over Na2SO4 and concentrated. Purification by gradient MPLC (SiO2, EtOAc/hexanes, 0-50%) gave the desired compound. 1H NMR (CDCl3) δ 7.74 (d, 1H), 7.56 (m, 1H), 7.13 (d, 2H), 7.02 (m, 1H), 6.94 (m, 3H), 4.04 (s, 2H), 3.85 (s, 3H), 3.62 (s, 3H); LC-MS (ESI+; 305 ([M+H]+)) and (ESI−; 303 ([M−H]−)).

reactant | (2-chloromethyl-quinazolin-4-yl)-(4-methoxy-phenyl)-methyl-amine | 0.14 mmol, 50 mg | ClCC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)OC | C17H16ClN3O
reactant | NaCN | 0.43 mmol, 21 mg | [C-]#N.[Na+]
solvent | DMSO | CS(=O)C | C2H6OS
product | {4-[(4-Methoxy-phenyl)-methyl-amino]-quinazolin-2-yl}-acetonitrile | COC1=CC=C(C=C1)N(C1=NC(=NC2=CC=CC=C12)CC#N)C | C18H16N4O
